US04234579
To the dichloromethane solution of 6,6-dibromopenicillanic acid from Preparation J was added 300 ml. of water, followed by the dropwise addition over a period of 30 minutes of 3N sodium hydroxide. The pH stabilized at 7.0. The aqueous layer was removed and the organic layer was extracted with water (2×100 ml.). To the combined aqueous solutions was added, at -5° C., a premixed solution prepared from 59.25 g. of potassium permanganate, 18 ml. of concentrated phosphoric acid and 600 ml. of water, until the pink color of the permanganate persisted. The addition took 50 minutes and 550 ml. of oxidant were required. At this point 500 ml. of ethyl acetate was added and then the pH was lowered to 1.23 by the addition of 105 ml. of 6N hydrochloric acid. Then 250 ml. of 1M sodium bisulfite was added during 10-15 minutes at ca. 10° C. During the addition of the sodium bisulfite solution the pH was maintained at 1.25-1.35 using 6N hydrochloric acid. The aqueous phase was saturated with sodium chloride and the two phases were separated. The aqueous solution was extracted with additional ethyl acetate (2×150 ml.) and the combined ethyl acetate solutions were washed with brine and dried (MgSO4). This afforded an ethyl acetate solution of 6,6-dibromopenicillanic acid 1,1-dioxide.

reactant | 6,6-dibromopenicillanic acid | CC1([C@@H](N2[C@H](S1)C(C2=O)(Br)Br)C(=O)O)C | C8H9Br2NO3S
reactant | sodium hydroxide | 3N | [OH-].[Na+]
reactant | potassium permanganate | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | permanganate | [Mn](=O)(=O)(=O)[O-]
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | sodium bisulfite | 1M | S([O-])(O)=O.[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6,6-dibromopenicillanic acid 1,1-dioxide | CC1([C@@H](N2[C@H](S1(=O)=O)C(C2=O)(Br)Br)C(=O)O)C | C8H9Br2NO5S
